US08633173B2
[5-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75 mg, 0.26 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (73 mg, 0.28 mmol) in a manner analogous to Example 77 to yield [5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine

reactant | 5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.26 mmol, 75 mg | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.28 mmol, 73 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
product | [5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C24H26N6O2S
